US06103708
4-[2-(2-Butyl-benzofuran-3-yl)-ethyl]-phenol
The title compound was prepared according to the procedure in Example 5, step 3 using 2-butyl-3-[2-(4-methoxy-phenyl)-ethyl]-benzofuran (0.300 g, 0.973 mmol) and 1M boron tribromide/CH2Cl2 (3.11 mL) in CH2Cl2. Purification on silica gel eluting with 50% EtOAc/pet. ether gave the title compound as a dark oil. 1H NMR (DMSO-d6) δ 0.84 (t, 3 H), 1.22 (sextet, 2 H), 1.41 (quintet, 2 H), 2.52 (t, 2 H), 2.74 (t, 2 H), 2.82 (t, 2 H), 6.61 (d, 2 H), 6.91 (d, 2 H), 7.15-7.21 (m, 2 H), 7.40-7.43 (m, 1 H), 7.52-7.54 (m, 1 H), 9.10 (s, 1 H). IR (KBr) 3400, 2950, 1610, 1510 and 1450 cm-1. mass spectrum (FAB) m/z 295 (M+H).

reactant | 2-butyl-3-[2-(4-methoxy-phenyl)-ethyl]-benzofuran | 0.973 mmol, 0.300 g | C(CCC)C=1OC2=C(C1CCC1=CC=C(C=C1)OC)C=CC=C2 | C21H24O2
reactant | boron tribromide CH2Cl2 | 1M, 3.11 mL | B(Br)(Br)Br.C(Cl)Cl
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[2-(2-Butyl-benzofuran-3-yl)-ethyl]-phenol | C(CCC)C=1OC2=C(C1CCC1=CC=C(C=C1)O)C=CC=C2 | C20H22O2
